US08017611B2
37% Aqueous formaldehyde (0.015 ml) at 0° C., was added to a stirred solution [2-[2-amino-5-[1-(4-piperidyl)pyrazol-4-yl]-3-pyridyl]-1,3-benzoxazol-7-yl]methanol (46 mg) dissolved in dichloromethane (2 ml) and methanol (2 ml) over a period of 5 minutes. The resulting solution was stirred at 0° C. for 10 minutes. Sodium triacetoxyhydroborate (30.0 mg) was added at 0° C. to the mixture and stirred at 0° C. for 1 hour. A solution 7N of ammonia in methanol (20 ml) was added to the mixture and adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 4 to 8% methanolic ammonia (7 N) in dichloromethane. The solvent was evaporated to dryness and the product was recrystallized from acetonitrile to afford [2-[2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]-3-pyridyl]-1,3-benzoxazol-7-yl]methanol (37.0 mg) as a solid. NMR Spectrum: (CDCl3) 2.05-2.29 (m, 6H), 2.36 (s, 3H), 2.98-3.08 (m, 2H), 4.12-4.23 (m, 1H), 5.09 (s, 2H), 6.88 (bs, 2H), 7.37 (dd, 1H), 7.43 (d, 1H), 7.66 (d, 1H), 7.67 (s, 1H), 7.74 (s, 1H), 8.30 (d, 1H), 8.32 (d, 1H); Mass spectrum: M+H+ 405;

reactant | formaldehyde | 0.015 ml | C=O | CH2O
reactant | [2-[2-amino-5-[1-(4-piperidyl)pyrazol-4-yl]-3-pyridyl]-1,3-benzoxazol-7-yl]methanol | 46 mg | NC1=NC=C(C=C1C=1OC2=C(N1)C=CC=C2CO)C=2C=NN(C2)C2CCNCC2 | C21H22N6O2
reactant | Sodium | [Na] | Na
reactant | ammonia | 7N | N | H3N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
product | [2-[2-amino-5-[1-(1-methyl-4-piperidyl)pyrazol-4-yl]-3-pyridyl]-1,3-benzoxazol-7-yl]methanol | 37.0 mg | NC1=NC=C(C=C1C=1OC2=C(N1)C=CC=C2CO)C=2C=NN(C2)C2CCN(CC2)C | C22H24N6O2
